* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\d_origin\d_origin.cir

.include 3_and.sub
.include 4_OR.sub
* u1  /x /y /z net-_u1-pad4_ port
* u2  /x net-_u2-pad2_ d_inverter
* u3  /y net-_u3-pad2_ d_inverter
* u4  /z net-_u4-pad2_ d_inverter
x2 net-_u5-pad3_ net-_u6-pad3_ net-_u7-pad3_ net-_x1-pad4_ net-_u1-pad4_ 4_OR
* u5  net-_u2-pad2_ net-_u4-pad2_ net-_u5-pad3_ d_and
* u6  net-_u2-pad2_ /y net-_u6-pad3_ d_and
* u7  /y net-_u4-pad2_ net-_u7-pad3_ d_and
x1 /x net-_u3-pad2_ /z net-_x1-pad4_ 3_and
a1 /x net-_u2-pad2_ u2
a2 /y net-_u3-pad2_ u3
a3 /z net-_u4-pad2_ u4
a4 [net-_u2-pad2_ net-_u4-pad2_ ] net-_u5-pad3_ u5
a5 [net-_u2-pad2_ /y ] net-_u6-pad3_ u6
a6 [/y net-_u4-pad2_ ] net-_u7-pad3_ u7
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
